.title kicad schematic

* u13 2/b2 plot_v1
v5 2/b2 gnd pulse(0 5 0 10n 10n 2m 4m)
v4 3/a2 gnd pulse(0 5 0 10n 10n 2m 4m)
v8 12/a4 gnd pulse(0 5 0 10n 10n 8m 16m)
* u24 12/a4 plot_v1
* u7 3/a2 net-_u7-pad2_ adc_bridge_1
* u11 2/b2 net-_u11-pad2_ adc_bridge_1
* u16 net-_u14-pad2_ net-_u16-pad2_ d_buffer
* u14 14/a3 net-_u14-pad2_ adc_bridge_1
* u8 net-_u7-pad2_ net-_u30-pad1_ d_buffer
* u12 net-_u11-pad2_ net-_u12-pad2_ d_buffer
* u22 12/a4 net-_u22-pad2_ adc_bridge_1
* u26 net-_u25-pad2_ net-_u26-pad2_ d_buffer
* u20 net-_u19-pad2_ net-_u20-pad2_ d_buffer
* u23 net-_u22-pad2_ net-_u23-pad2_ d_buffer
* u25 11/b4 net-_u25-pad2_ adc_bridge_1
* u19 15/b3 net-_u19-pad2_ adc_bridge_1
v9 11/b4 gnd pulse(0 5 0 10n 10n 8m 16m)
* u27 11/b4 plot_v1
v6 14/a3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u17 14/a3 plot_v1
* u21 15/b3 plot_v1
v7 15/b3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u18 6/b1 plot_v1
* u9 5/a1 plot_v1
* u6 5/a1 net-_u6-pad2_ adc_bridge_1
* u3 net-_u6-pad2_ net-_u28-pad1_ d_buffer
* u2 net-_u1-pad2_ net-_u2-pad2_ d_buffer
* u4 net-_u15-pad2_ net-_u28-pad2_ d_buffer
* u1 7/cin net-_u1-pad2_ adc_bridge_1
* u15 6/b1 net-_u15-pad2_ adc_bridge_1
v2 5/a1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u5 7/cin plot_v1
v1 7/cin gnd pulse(0 5 0 10n 10n 1m 2m)
* u10 3/a2 plot_v1
v3 6/b1 gnd pulse(0 5 0 10n 10n 1m 2m)
* u28 net-_u28-pad1_ net-_u28-pad2_ net-_u28-pad3_ d_and
* u31 net-_u30-pad1_ net-_u12-pad2_ net-_u31-pad3_ d_xor
* u29 net-_u28-pad1_ net-_u28-pad2_ net-_u29-pad3_ d_xor
* u30 net-_u30-pad1_ net-_u12-pad2_ net-_u30-pad3_ d_and
* u32 net-_u16-pad2_ net-_u20-pad2_ net-_u32-pad3_ d_and
* u34 net-_u23-pad2_ net-_u26-pad2_ net-_u34-pad3_ d_and
* u33 net-_u16-pad2_ net-_u20-pad2_ net-_u33-pad3_ d_xor
* u35 net-_u23-pad2_ net-_u26-pad2_ net-_u35-pad3_ d_xor
* u37 net-_u28-pad3_ net-_u31-pad3_ net-_u37-pad3_ d_and
* u36 net-_u29-pad3_ net-_u2-pad2_ net-_u36-pad3_ d_and
* u38 net-_u28-pad3_ net-_u36-pad3_ net-_u38-pad3_ d_or
* u67 net-_u65-pad3_ net-_u67-pad2_ d_buffer
* u68 net-_u66-pad3_ net-_u35-pad3_ net-_u68-pad3_ d_or
* u73 net-_u72-pad2_ 9/cout dac_bridge_1
* u70 net-_u68-pad3_ net-_u56-pad3_ net-_u70-pad3_ d_or
* u69 net-_u67-pad2_ 10/s4 dac_bridge_1
* u72 net-_u70-pad3_ net-_u72-pad2_ d_buffer
* u71 10/s4 plot_v1
* u74 9/cout plot_v1
* u54 net-_u32-pad3_ net-_u35-pad3_ net-_u54-pad3_ d_and
* u60 net-_u48-pad3_ net-_u35-pad3_ net-_u60-pad3_ d_and
* u56 net-_u54-pad3_ net-_u34-pad3_ net-_u56-pad3_ d_or
* u66 net-_u63-pad3_ net-_u60-pad3_ net-_u66-pad3_ d_or
* u63 net-_u59-pad3_ net-_u35-pad3_ net-_u63-pad3_ d_and
* u59 net-_u37-pad3_ net-_u33-pad3_ net-_u59-pad3_ d_and
* u64 13/s3 plot_v1
* u61 net-_u57-pad2_ 13/s3 dac_bridge_1
* u57 net-_u55-pad3_ net-_u57-pad2_ d_buffer
* u58 net-_u53-pad3_ net-_u52-pad3_ net-_u58-pad3_ d_or
* u65 net-_u62-pad3_ net-_u35-pad3_ net-_u65-pad3_ d_xor
* u62 net-_u58-pad3_ net-_u59-pad3_ net-_u62-pad3_ d_or
* u53 net-_u32-pad3_ net-_u48-pad3_ net-_u53-pad3_ d_or
* u52 net-_u30-pad3_ net-_u33-pad3_ net-_u52-pad3_ d_and
* u48 net-_u45-pad3_ net-_u33-pad3_ net-_u48-pad3_ d_and
* u55 net-_u50-pad3_ net-_u33-pad3_ net-_u55-pad3_ d_xor
* u39 net-_u29-pad3_ net-_u2-pad2_ net-_u39-pad3_ d_xor
* u40 net-_u29-pad3_ net-_u31-pad3_ net-_u40-pad3_ d_and
* u43 net-_u39-pad3_ net-_u43-pad2_ d_buffer
* u41 net-_u31-pad3_ net-_u38-pad3_ net-_u41-pad3_ d_xor
* u42 net-_u30-pad3_ net-_u37-pad3_ net-_u42-pad3_ d_or
* u50 net-_u45-pad3_ net-_u42-pad3_ net-_u50-pad3_ d_or
* u49 net-_u44-pad2_ 1/s2 dac_bridge_1
* u51 1/s2 plot_v1
* u46 net-_u43-pad2_ 4/s1 dac_bridge_1
* u44 net-_u41-pad3_ net-_u44-pad2_ d_buffer
* u47 4/s1 plot_v1
* u45 net-_u40-pad3_ net-_u2-pad2_ net-_u45-pad3_ d_and
a1 [3/a2 ] [net-_u7-pad2_ ] u7
a2 [2/b2 ] [net-_u11-pad2_ ] u11
a3 net-_u14-pad2_ net-_u16-pad2_ u16
a4 [14/a3 ] [net-_u14-pad2_ ] u14
a5 net-_u7-pad2_ net-_u30-pad1_ u8
a6 net-_u11-pad2_ net-_u12-pad2_ u12
a7 [12/a4 ] [net-_u22-pad2_ ] u22
a8 net-_u25-pad2_ net-_u26-pad2_ u26
a9 net-_u19-pad2_ net-_u20-pad2_ u20
a10 net-_u22-pad2_ net-_u23-pad2_ u23
a11 [11/b4 ] [net-_u25-pad2_ ] u25
a12 [15/b3 ] [net-_u19-pad2_ ] u19
a13 [5/a1 ] [net-_u6-pad2_ ] u6
a14 net-_u6-pad2_ net-_u28-pad1_ u3
a15 net-_u1-pad2_ net-_u2-pad2_ u2
a16 net-_u15-pad2_ net-_u28-pad2_ u4
a17 [7/cin ] [net-_u1-pad2_ ] u1
a18 [6/b1 ] [net-_u15-pad2_ ] u15
a19 [net-_u28-pad1_ net-_u28-pad2_ ] net-_u28-pad3_ u28
a20 [net-_u30-pad1_ net-_u12-pad2_ ] net-_u31-pad3_ u31
a21 [net-_u28-pad1_ net-_u28-pad2_ ] net-_u29-pad3_ u29
a22 [net-_u30-pad1_ net-_u12-pad2_ ] net-_u30-pad3_ u30
a23 [net-_u16-pad2_ net-_u20-pad2_ ] net-_u32-pad3_ u32
a24 [net-_u23-pad2_ net-_u26-pad2_ ] net-_u34-pad3_ u34
a25 [net-_u16-pad2_ net-_u20-pad2_ ] net-_u33-pad3_ u33
a26 [net-_u23-pad2_ net-_u26-pad2_ ] net-_u35-pad3_ u35
a27 [net-_u28-pad3_ net-_u31-pad3_ ] net-_u37-pad3_ u37
a28 [net-_u29-pad3_ net-_u2-pad2_ ] net-_u36-pad3_ u36
a29 [net-_u28-pad3_ net-_u36-pad3_ ] net-_u38-pad3_ u38
a30 net-_u65-pad3_ net-_u67-pad2_ u67
a31 [net-_u66-pad3_ net-_u35-pad3_ ] net-_u68-pad3_ u68
a32 [net-_u72-pad2_ ] [9/cout ] u73
a33 [net-_u68-pad3_ net-_u56-pad3_ ] net-_u70-pad3_ u70
a34 [net-_u67-pad2_ ] [10/s4 ] u69
a35 net-_u70-pad3_ net-_u72-pad2_ u72
a36 [net-_u32-pad3_ net-_u35-pad3_ ] net-_u54-pad3_ u54
a37 [net-_u48-pad3_ net-_u35-pad3_ ] net-_u60-pad3_ u60
a38 [net-_u54-pad3_ net-_u34-pad3_ ] net-_u56-pad3_ u56
a39 [net-_u63-pad3_ net-_u60-pad3_ ] net-_u66-pad3_ u66
a40 [net-_u59-pad3_ net-_u35-pad3_ ] net-_u63-pad3_ u63
a41 [net-_u37-pad3_ net-_u33-pad3_ ] net-_u59-pad3_ u59
a42 [net-_u57-pad2_ ] [13/s3 ] u61
a43 net-_u55-pad3_ net-_u57-pad2_ u57
a44 [net-_u53-pad3_ net-_u52-pad3_ ] net-_u58-pad3_ u58
a45 [net-_u62-pad3_ net-_u35-pad3_ ] net-_u65-pad3_ u65
a46 [net-_u58-pad3_ net-_u59-pad3_ ] net-_u62-pad3_ u62
a47 [net-_u32-pad3_ net-_u48-pad3_ ] net-_u53-pad3_ u53
a48 [net-_u30-pad3_ net-_u33-pad3_ ] net-_u52-pad3_ u52
a49 [net-_u45-pad3_ net-_u33-pad3_ ] net-_u48-pad3_ u48
a50 [net-_u50-pad3_ net-_u33-pad3_ ] net-_u55-pad3_ u55
a51 [net-_u29-pad3_ net-_u2-pad2_ ] net-_u39-pad3_ u39
a52 [net-_u29-pad3_ net-_u31-pad3_ ] net-_u40-pad3_ u40
a53 net-_u39-pad3_ net-_u43-pad2_ u43
a54 [net-_u31-pad3_ net-_u38-pad3_ ] net-_u41-pad3_ u41
a55 [net-_u30-pad3_ net-_u37-pad3_ ] net-_u42-pad3_ u42
a56 [net-_u45-pad3_ net-_u42-pad3_ ] net-_u50-pad3_ u50
a57 [net-_u44-pad2_ ] [1/s2 ] u49
a58 [net-_u43-pad2_ ] [4/s1 ] u46
a59 net-_u41-pad3_ net-_u44-pad2_ u44
a60 [net-_u40-pad3_ net-_u2-pad2_ ] net-_u45-pad3_ u45
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u16 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u8 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u12 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u22 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u26 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u20 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u23 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u25 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u3 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u2 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u4 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u31 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u29 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u33 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u35 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u38 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u67 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u68 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u73 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u70 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u69 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u72 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u54 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u60 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u56 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u66 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u63 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u59 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u61 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u57 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u58 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u65 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u62 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u53 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u52 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u48 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u55 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u39 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u43 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u41 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u42 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u50 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u49 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u46 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u44 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.1e-03 16e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(2/b2)
plot v(12/a4)
plot v(11/b4)
plot v(14/a3)
plot v(15/b3)
plot v(6/b1)
plot v(5/a1)
plot v(7/cin)
plot v(3/a2)
plot v(10/s4)
plot v(9/cout)
plot v(13/s3)
plot v(1/s2)
plot v(4/s1)
.endc
.end
